### PR TITLE
feat(data structures): simple functional queue from Okasaki

### PR DESCRIPTION
**Pull request by c-cube**
Hi, this is my first attempt at contributing Lean code.

I dug out the old Okasaki, and started off with the simple queue. This should
contain a correctness proof, a complexity proof, and a mapping to a ghost list
of elements. `TimeM` doesn't seem to be enough for amortized complexity so
I added a module for that, and I also removed the `ZeroAdd` typeclass constraint
because `\N` doesn't implement it(!).

AI disclosure: all code is mine, but I had some assistance from GLM 5.1 to
tidy up proof terms and get unstuck.

### CODE REVIEW

File: Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean [hunk 1]
```diff
@@ -0,0 +1,237 @@
...
+
+/-!
+# Functional Queue
+
+A classic two-list queue with amortized O(1) `push` and `pop`.
+
+The representation uses two lists: a front list (for dequeue) and a back list
+(for enqueue). When the front list becomes empty, the back list is reversed
+and becomes the new front. This yields amortized O(1) operations.
+
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean:24]: Please define the cost model that TimeM tracks for your list algorithm.

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 2]
```diff
@@ -0,0 +1,43 @@
...
+This complements `TimeM` in the cases where amortized costs are necessary.
+-/
+
+@[expose] public section
+
+namespace Cslib.Algorithms.Lean.Amortized
+
+/-- Physicist method: a potential (lower bound on savings) defined on a
+    data structure -/
+class Potential α where
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Amortized.lean]: In general, potential function arguments do not require non-negativity of the potential.

File: Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean [hunk 3]
```diff
@@ -0,0 +1,237 @@
...
+    : Amortized.amortizedCost q op ≤ 2 := by
+  simp only [Amortized.amortizedCost, Amortized.Potential.potential, Nat.sub_le_iff_le_add]
+  cases op with
+  | push x =>
+    simp only [Amortized.Op.applyOp, applyOp, potential]
+    cases h_front : q.front <;> (rw [Raw.push, Raw.rebalance, h_front] at ⊢; grind)
+  | pop =>
+    simp only [Amortized.Op.applyOp, applyOp, potential]
+    cases h_front : q.front <;> (rw [Raw.pop, h_front] at ⊢; grind [Raw.rebalance])
+
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean:202]: Amortized cost is nice, but not immediately usable. To provide a good API for users, can you add a theorem about the total cost of a sequence of m operations on the queue of n elements? This should be at most 2m+n.

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 4]
```diff
@@ -0,0 +1,43 @@
...
+
+@[simp] def applyOps {α o : Type u} [Op α o] (ops : List o) (x : α)
+    : TimeM ℕ α :=
+  List.foldlM (fun x op => Op.applyOp x op) x ops
+
+/-- Amortized cost with the physicist's method,
+    following Okasaki, chapter 5 -/
+def amortizedCost {α o : Type*} [Op α o] [Potential α] (x : α) (op : o) : ℕ :=
+  (Op.applyOp x op).time + Potential.potential (Op.applyOp x op).ret - Potential.potential x
+
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Amortized.lean:91]: Some theorems/APIs about amortized cost imply that the total cost would be nice to have.

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 5]
```diff
@@ -0,0 +1,43 @@
...
+@[expose] public section
+
+namespace Cslib.Algorithms.Lean.Amortized
+
+/-- Physicist method: a potential (lower bound on savings) defined on a
+    data structure -/
+class Potential α where
+  /-- non-negative potential. Initial potential should be 0.
+      [Okasaki, *Purely Functional Data Structures*, 1996][okasaki1996] -/
+  potential : α → Nat
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Amortized.lean]: Generic type is better. I wouldn't use Nat, as some applications may use real numbers. In some cases, we allow negative numbers.

File: Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean (hunk 3 above)
Comment (c-cube) [reply Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean:202]: done, although it's probably not the most elegant way :)

File: Cslib/Algorithms/Lean/Amortized.lean (hunk 5 above)
Comment (c-cube) [reply Cslib/Algorithms/Lean/Amortized.lean]: can I put some sort of associated type in the potential class? like

```
class Potential a where
  domain : Zero + Add
  potential : a -> domain
```
?

or at least something that works with `linarith`/`grind`?

Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Amortized.lean]: That would be `class Potential (α) [ZeroAdd α] where`

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 6]
```diff
@@ -22,21 +23,58 @@ namespace Cslib.Algorithms.Lean.Amortized
...
+    + Potential.potential (applyOps x ops).ret
+    - Potential.potential x
+
+/-- If each operation's cost is bounded by `k`, then the amortized
+  cost over a series of operations is bounded by `k * ops.length`. -/
+theorem constantAmortizedCostL {α o : Type*}
+    [h_op : Op α o] [h_pot : Potential α]
+    (k : ℕ) (h_bounded : ∀ (x : α) (op : o), amortizedCost x op ≤ k)
+    (x : α) (ops : List o)
+    : amortizedCostL x ops ≤ k * ops.length
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Amortized.lean]: Thanks for the edit. I would state the theorem this way:

(applyOps x ops).time <= k * ops.length + Potential.potential x

This formulation explicitly relates the total cost (LHS) to the amortized cost. Users only care about the LHS, and the initial potential can be bounded depending on the application.

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 7]
```diff
@@ -22,21 +23,58 @@ namespace Cslib.Algorithms.Lean.Amortized
...
     following Okasaki, chapter 5 -/
-def amortizedCost {α o : Type*} [Op α o] [Potential α] (x : α) (op : o) : ℕ :=
-  (Op.applyOp x op).time + Potential.potential (Op.applyOp x op).ret - Potential.potential x
+def amortizedCost {α o : Type*} [Op α o] [Potential α]
+    (x : α) (op : o) : ℕ :=
+  (Op.applyOp x op).time
+    + Potential.potential (Op.applyOp x op).ret
+    - Potential.potential x
+
+def amortizedCostL {α o : Type*} [Op α o] [Potential α]
```
Comment (sorrachai) [inline Cslib/Algorithms/Lean/Amortized.lean]: Not sure if this definition is needed.

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 8]
```diff
@@ -0,0 +1,88 @@
...
+This complements `TimeM` in the cases where amortized costs are necessary.
+-/
+
+@[expose] public section
+
+namespace Cslib.Algorithms.Lean.Amortized
+
+/-- Physicist method: a potential (lower bound on savings) defined on a
+    data structure -/
+class Potential φ α extends CommRing φ, LinearOrder φ, IsStrictOrderedRing φ where
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Amortized.lean]: This should almost surely be
```suggestion
class Potential (φ α) [CommRing φ] [LinearOrder φ] [IsStrictOrderedRing φ] where
```

Comment (c-cube) [reply Cslib/Algorithms/Lean/Amortized.lean]: ok, that's fixed.

File: Cslib/Algorithms/Lean/Amortized.lean (hunk 6 above)
Comment (c-cube) [reply Cslib/Algorithms/Lean/Amortized.lean]: I kept the more accurate bound but otherwise `amortizedCostL` is gone.

File: Cslib/Algorithms/Lean/Amortized.lean (hunk 5 above)
Comment (c-cube) [reply Cslib/Algorithms/Lean/Amortized.lean]: I needed a lot more in the end, but it's now generic.

**Comment by c-cube** [comment]
this is ready for re-review

File: Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean [hunk 9]
```diff
@@ -0,0 +1,256 @@
...
+  front : List α
+  back : List α
+
+/-- Well-formedness: if front is empty, back must be empty too. -/
+def invariant {α : Type u} (q : Raw.FunctionalQueue α) : Prop :=
+  q.front = [] → q.back = []
+
+/-- The logical contents of the queue: `front ++ back.reverse`. -/
+def ghostList {α : Type u} (q : FunctionalQueue α) : List α :=
+  List.append q.front q.back.reverse
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean]: more idiomatic as
```suggestion
  q.front ++ q.back.reverse
```

File: Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean [hunk 10]
```diff
@@ -0,0 +1,256 @@
...
+structure FunctionalQueue (α : Type u) where
+  front : List α
+  back : List α
+
+/-- Well-formedness: if front is empty, back must be empty too. -/
+def invariant {α : Type u} (q : Raw.FunctionalQueue α) : Prop :=
+  q.front = [] → q.back = []
+
+/-- The logical contents of the queue: `front ++ back.reverse`. -/
+def ghostList {α : Type u} (q : FunctionalQueue α) : List α :=
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean]: Why not just call this `toList`?

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 11]
```diff
@@ -0,0 +1,89 @@
...
+This complements `TimeM` in the cases where amortized costs are necessary.
+-/
+
+@[expose] public section
+
+namespace Cslib.Algorithms.Lean.Amortized
+
+/-- Physicist method: a potential (lower bound on savings) defined on a
+    data structure -/
+class Potential φ α [CommRing φ] [LinearOrder φ] [IsStrictOrderedRing φ] where
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Amortized.lean]:
```suggestion
class Potential (φ α : Type*) [CommRing φ] [LinearOrder φ] [IsStrictOrderedRing φ] where
```
is good style

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 12]
```diff
@@ -0,0 +1,89 @@
...
+  /-- [Okasaki, *Purely Functional Data Structures*, 1996][okasaki1996] -/
+  potential : α → φ
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Amortized.lean]: This docstring should be readable without having to read the reference.

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 13]
```diff
@@ -0,0 +1,89 @@
...
+
+class Op α o where
+  applyOp : α → o → TimeM ℕ α
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Amortized.lean]: This has no docstring; and this only makse sense if you are saying "for any given pair of types `α o`, there is exactly one possible operation".

File: Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean [hunk 14]
```diff
@@ -0,0 +1,256 @@
...
+    ghostList (rebalance q).ret = ghostList q := by
+  obtain ⟨f, b⟩ := q
+  simp [rebalance, ghostList]
+  split <;> grind [List.reverse_append]
+
+/-- Enqueue an element. -/
+def push {α : Type u} (x : α) (q : FunctionalQueue α)
+    : TimeM ℕ (FunctionalQueue α) := do
+  TimeM.tick 1
+  rebalance ⟨ q.front, x :: q.back ⟩
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean:98]: In my opinion, the `TimeM` stuff clutters the API here; especially if you find yourself wanting to execute this code, and now end up computing a bunch of counters that you have no interest in. I'd suggest something like
```suggestion
/-- Enqueue an element. -/
def push {α : Type u} (x : α) (q : FunctionalQueue α) : FunctionalQueue α :=
  rebalance ⟨q.front, x :: q.back⟩

/-- Push as an algorithm
def pushAlg {α : Type u} (x : α) (q : FunctionalQueue α)
    : TimeM ℕ (FunctionalQueue α) := do
  TimeM.tick 1
  rebalanceAlg ⟨ q.front, x :: q.back ⟩
  
@[simp] theorem run_pushAlg : (pushAlg x q).ret = pushAlg x q := sorry
```
and similar for the others.

Perhaps this needs discussion on Zulip.

File: Cslib/Algorithms/Lean/Amortized.lean (hunk 13 above)
Comment (c-cube) [reply Cslib/Algorithms/Lean/Amortized.lean]: how else should I write this? no typeclass at all?

Comment (eric-wieser) [reply Cslib/Algorithms/Lean/Amortized.lean]: Yes, I think drop the typeclass entirely.

File: Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean [hunk 15]
```diff
@@ -0,0 +1,256 @@
...
+universe u
+
+namespace Raw
+
+structure FunctionalQueue (α : Type u) where
+  front : List α
+  back : List α
+
+/-- Well-formedness: if front is empty, back must be empty too. -/
+def invariant {α : Type u} (q : Raw.FunctionalQueue α) : Prop :=
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean]:
```suggestion
def Invariant {α : Type u} (q : Raw.FunctionalQueue α) : Prop :=
```
since this is a `Prop`

File: Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean [hunk 16]
```diff
@@ -0,0 +1,256 @@
...
+  simp [rebalance, toList]
+  split <;> grind [List.reverse_append]
+
+/-- Enqueue an element. -/
+def push {α : Type u} (x : α) (q : FunctionalQueue α)
+    : TimeM ℕ (FunctionalQueue α) := do
+  TimeM.tick 1
+  rebalance ⟨ q.front, x :: q.back ⟩
+
+theorem pushInvariant {α : Type u} (x : α) (q : FunctionalQueue α)
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/FunctionalQueue/FunctionalQueue.lean]: This should be called `Invariant.push`

File: Cslib/Algorithms/Lean/Amortized.lean [hunk 17]
```diff
@@ -0,0 +1,93 @@
...
+-/
+
+@[expose] public section
+
+namespace Cslib.Algorithms.Lean.Amortized
+
+/-- Physicist method: a potential (lower bound on savings) defined on a
+    data structure.
+    [Okasaki, *Purely Functional Data Structures*, 1996][okasaki1996] -/
+class Potential (φ α : Type*) [CommRing φ] [LinearOrder φ] [IsStrictOrderedRing φ] where
```
Comment (eric-wieser) [inline Cslib/Algorithms/Lean/Amortized.lean:31]: Note that you can change this to
```suggestion
class Potential (φ α : Type*) where
```
